US09428502B2
Compound 374.1. N,N,4-Trimethyl-1H-pyrazole-3-carboxamide
To a mixture of 4-methyl-1H-pyrazole-3-carboxylic acid (1.00 g, 7.93 mmol), HOBT (1.07 g, 7.93 mmol) and EDCI (2.27 g, 11.89 mmol) in DMF (10 mL) was added DIEA (2.74 mL, 15.86 mmol). After the mixture was stirred at room temperature for 16 hours, dimethylamine (2M in THF, 11.89 mL, 23.79 mmol) was added. The mixture was stirred at room temperature for 3 hours, then partitioned between EtOAc (300 mL) and water (30 mL). The organics was washed with brine (3×30 mL) and the combined aqueous material was back extracted with EtOAc (2×50 mL). All organic extracts were combined, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5% MeOH in CH2Cl2) to obtain the title compound as a brown oil (1.1 g, 92%). m/z (ES+) 154 (M+H)+.

reactant | 4-methyl-1H-pyrazole-3-carboxylic acid | 7.93 mmol, 1.00 g | CC=1C(=NNC1)C(=O)O | C5H6N2O2
reactant | HOBT | 7.93 mmol, 1.07 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 11.89 mmol, 2.27 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 15.86 mmol, 2.74 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 23.79 mmol, 2M, 11.89 mL | CNC | C2H7N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N,4-Trimethyl-1H-pyrazole-3-carboxamide | 1.1 g, 92% | CN(C(=O)C1=NNC=C1C)C | C7H11N3O
